US07211577B2
1) Preparation of 2-cyclopropylmethyl-4-methanesulfonyloxymethyl-6-[4-(methylsulfonyl)phenyl]-2H-pyridazin-3-one
To a solution of 2-cyclopropylmethyl-4-methanesulfonyloxymethyl-6-[4-(methylthio)phenyl]-2H-pyridazin-3-one (226 mg, 0.59 mmol) in methylene chloride (10 mL) was added dropwise at −20° C. a solution of 3-chloroperbenzoic acid (410 mg, 2.38 mmol) in methylene chloride (2 mL), and at the same temperature, the mixture was stirred for 30 minutes. A 10% aqueous sodium hydrogensulfite was added to the reaction mixture, and then, the mixture was extracted with chloroform. The extract was successively washed with a saturated aqueous sodium hydrogencarbonate and brine, and was then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was recrystallized from chloroform-hexane to yield the title compound as a colorless crystalline powder (209 mg, 85.3%).

reactant | 2-cyclopropylmethyl-4-methanesulfonyloxymethyl-6-[4-(methylthio)phenyl]-2H-pyridazin-3-one | 0.59 mmol, 226 mg | C1(CC1)CN1N=C(C=C(C1=O)COS(=O)(=O)C)C1=CC=C(C=C1)SC | C17H20N2O4S2
reactant | 3-chloroperbenzoic acid | 2.38 mmol, 410 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
reactant | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-cyclopropylmethyl-4-methanesulfonyloxymethyl-6-[4-(methylsulfonyl)phenyl]-2H-pyridazin-3-one | 209 mg, 85.3% | C1(CC1)CN1N=C(C=C(C1=O)COS(=O)(=O)C)C1=CC=C(C=C1)S(=O)(=O)C | C17H20N2O6S2
